US06103725
A mixture of 4-(3,4-dichlorophenyl)-1-piperazinepropanamine (0.009 mol), prepared according to the procedure described in Example A.5, and 1-isothiocyanato-4-methoxybenzene (0.009 mol) in CHCl3 (100 ml) was stirred for one hour at room temperature, then cooled to 0° C. on an ice-bath. Thionylchloride (30 ml) was added dropwise and the resulting reaction mixture was allowed to slowly warm to room temperature. The reaction mixture was stirred for 3 hours at 60° C. The mixture was cooled to room temperature and the resulting precipitate was filtered off, stirred in boiling 2-propanone, filtered off, then dried. This fraction was converted into the free base by addition of aqueous ammonia. The mixture was extracted with CH2Cl2. The separated organic layer was dried, filtered and the solvent evaporated. The residue was crystallized from CH3CN, filtered off, dissolved in 2-propanone and converted into the hydrochloric acid salt (1:2) with HCl/2-propanol. The precipitate was filtered off and dried, yielding 1.6 g (34%) of N-[3-[4-(3,4-dichlorophenyl)-1-piperazinyl]propyl]-6-methoxy-2-benzothiazolamine dihydrochloride (comp. 72).

reactant | 4-(3,4-dichlorophenyl)-1-piperazinepropanamine | 0.009 mol | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCN | C13H19Cl2N3
reactant | 1-isothiocyanato-4-methoxybenzene | 0.009 mol | N(=C=S)C1=CC=C(C=C1)OC | C8H7NOS
reactant | Thionylchloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[4-(3,4-dichlorophenyl)-1-piperazinyl]propyl]-6-methoxy-2-benzothiazolamine dihydrochloride | 1.6 g, 34% | Cl.Cl.ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCNC=1SC2=C(N1)C=CC(=C2)OC | InChI=1S/C21H24Cl2N4OS.2ClH/c1-28-16-4-6-19-20(14-16)29-21(25-19)24-7-2-8-26-9-11-27(12-10-26)15-3-5-17(22)18(23)13-15;;/h3-6,13-14H,2,7-12H2,1H3,(H,24,25);2*1H
